### PR TITLE
[Merged by Bors] - chore(*): use `Finset.filter` notation more

### PR DESCRIPTION
**Pull request by urkud**
Also minor golf here and there.

---
I'm sorry for mixing notation changes with golfing, but it's hard to split into 2 PRs now.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Centralizer.lean [hunk 1]
```diff
@@ -96,7 +96,7 @@ theorem card_of_cycleType_mul_eq (m : Multiset ℕ) :
 variable (α) in
 /-- The cardinality of even permutations of given `cycleType` -/
 theorem card_of_cycleType (m : Multiset ℕ) :
-    (Finset.univ.filter fun g : alternatingGroup α => (g : Equiv.Perm α).cycleType = m).card =
+    ({g | (g : Equiv.Perm α).cycleType = m} : Finset (alternatingGroup α)).card =
```
Comment (b-mehta) [inline Mathlib/GroupTheory/SpecificGroups/Alternating/Centralizer.lean:99]: Does it work to use the # notation here too; then maybe you can avoid the type ascription?

**Review by b-mehta — COMMENTED** [review]
This is a bit tough to review with the changes mixed in, I've gone through the second half of the files for now; will come back to it later.

File: Mathlib/GroupTheory/SpecificGroups/Alternating/Centralizer.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/GroupTheory/SpecificGroups/Alternating/Centralizer.lean]: It does. Changed here and in some other places.

**Comment by urkud** [comment]
> This is a bit tough to review with the changes mixed in, I've gone through the second half of the files for now; will come back to it later.

I'm going to add comments to all `diff` parts that modify more than notation.

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 2]
```diff
@@ -423,21 +423,19 @@ variable [CommMonoid α]
...
   | zero =>
     simp
   | succ i IH =>
     by_cases h : i < n
     · have : i < length (ofFn f) := by rwa [length_ofFn f]
       rw [prod_take_succ _ _ this]
-      have A : ((Finset.univ : Finset (Fin n)).filter fun j => j.val < i + 1) =
-          ((Finset.univ : Finset (Fin n)).filter fun j => j.val < i) ∪ {(⟨i, h⟩ : Fin n)} := by
+      have A : ({j | j.val < i + 1} : Finset (Fin n)) =
+          insert ⟨i, h⟩ ({j | Fin.val j < i} : Finset (Fin n)) := by
```
Comment (urkud) [inline Mathlib/Algebra/BigOperators/Fin.lean:435]: changed `s ∪ {a}` to `insert a s`.

File: Mathlib/MeasureTheory/Measure/Haar/Basic.lean [hunk 3]
```diff
@@ -206,11 +206,9 @@ theorem index_union_eq (K₁ K₂ : Compacts G) {V : Set G} (hV : (interior V).N
   classical
   apply le_antisymm (index_union_le K₁ K₂ hV)
   rcases index_elim (K₁.2.union K₂.2) hV with ⟨s, h1s, h2s⟩; rw [← h2s]
-  have :
-    ∀ K : Set G,
-      (K ⊆ ⋃ g ∈ s, (fun h => g * h) ⁻¹' V) →
-        index K V ≤ (s.filter fun g => ((fun h : G => g * h) ⁻¹' V ∩ K).Nonempty).card := by
-    intro K hK; apply Nat.sInf_le; refine ⟨_, ?_, rfl⟩; rw [mem_setOf_eq]
+  have (K : Set G) (hK : K ⊆ ⋃ g ∈ s, (g * ·) ⁻¹' V) :
```
Comment (urkud) [inline Mathlib/MeasureTheory/Measure/Haar/Basic.lean:209]: Moved `K` and `hK` before `:` in `have`.

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 4]
```diff
@@ -49,7 +50,7 @@ lemma lt_of_mem_primesBelow {p n : ℕ} (h : p ∈ n.primesBelow) : p < n :=
   Finset.mem_range.mp <| Finset.mem_of_mem_filter p h
 
 lemma primesBelow_succ (n : ℕ) :
-    primesBelow n.succ = if n.Prime then insert n (primesBelow n) else primesBelow n := by
+    primesBelow (n + 1) = if n.Prime then insert n (primesBelow n) else primesBelow n := by
```
Comment (urkud) [inline Mathlib/NumberTheory/SmoothNumbers.lean:53]: Change `n.succ` to `n + 1` in multiple places in this file.

File: Mathlib/Algebra/Order/Antidiag/Pi.lean [hunk 5]
```diff
@@ -230,18 +230,17 @@ lemma nsmul_piAntidiag [DecidableEq (ι → ℕ)] (s : Finset ι) (m : ℕ) {n :
...
     (piAntidiag s m).map
       ⟨(n • ·), fun _ _ h ↦ funext fun i ↦ mul_right_injective₀ hn (congr_fun h i)⟩ =
-        (piAntidiag s (n * m)).filter fun f : ι → ℕ ↦ ∀ i ∈ s, n ∣ f i := by
+        {f ∈ piAntidiag s (n * m) | ∀ i ∈ s, n ∣ f i} := by
   classical rw [map_eq_image]; exact nsmul_piAntidiag _ _ hn
 
 lemma nsmul_piAntidiag_univ [Fintype ι] (m : ℕ) {n : ℕ} (hn : n ≠ 0) :
-    @SMul.smul _ _ Finset.smulFinset n (piAntidiag univ m) =
-      (piAntidiag univ (n * m)).filter fun f : ι → ℕ ↦ ∀ i, n ∣ f i := by
+    n •ℕ (piAntidiag univ m) = {f ∈ piAntidiag (univ : Finset ι) (n * m) | ∀ i, n ∣ f i} := by
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Antidiag/Pi.lean:237]:
```suggestion
    n •ℕ piAntidiag univ m = {f ∈ piAntidiag (univ : Finset ι) (n * m) | ∀ i, n ∣ f i} := by
```
untested

**Review by b-mehta — APPROVED** [review]
bors merge

Thanks!!
